US07186749B2
Step 2: 4-{[(6-{5-phenyl-1-[4-(trifluoromethyl)benzyl]-1H-pyrrol-2-yl}-2-naphthyl)oxy]methyl}isophthalic acid.
A mixture of dimethyl 4-{[(6-{5-phenyl-1-[4-(trifluoromethyl)benzyl]-1H-pyrrol-2-yl}-2-naphthyl)oxy]methyl}isophthalate (165 mg, 0.254 mmol), prepared in the previous step, and 1 N NaOH (1.52 mL, 1.52 mmol) in 30 mL of THF plus 20 mL of methanol plus 5 mL of water was refluxed under nitrogen for 6 h. The reaction was filtered, cooled to room temperature, acidified by the addition of 5 mL of 1 N HCl and then concentrated under reduced pressure to remove the THF and methanol. The solid present was collected by filtration, rinsed with water and dried under reduced pressure at 60° C. to give the title compound (148 mg, 94%) as a yellow solid, mp 250–252° C. Elemental Analysis for C37H26F3NO5.0.18 C4H8O.0.34 H2O Calc'd: C, 70.71; H, 4.42; N, 2.19. Found: C, 70.65; H, 4.34; N, 2.13.

reactant | dimethyl 4-{[(6-{5-phenyl-1-[4-(trifluoromethyl)benzyl]-1H-pyrrol-2-yl}-2-naphthyl)oxy]methyl}isophthalate | 0.254 mmol, 165 mg | C1(=CC=CC=C1)C1=CC=C(N1CC1=CC=C(C=C1)C(F)(F)F)C=1C=C2C=CC(=CC2=CC1)OCC1=C(C=C(C(=O)OC)C=C1)C(=O)OC | C39H30F3NO5
reactant | NaOH | 1.52 mmol, 1 N, 1.52 mL | [OH-].[Na+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | methanol | 20 mL | CO | CH4O
solvent | water | 5 mL | O | H2O
product | 4-{[(6-{5-phenyl-1-[4-(trifluoromethyl)benzyl]-1H-pyrrol-2-yl}-2-naphthyl)oxy]methyl}isophthalic acid | 148 mg, 94% | C1(=CC=CC=C1)C1=CC=C(N1CC1=CC=C(C=C1)C(F)(F)F)C=1C=C2C=CC(=CC2=CC1)OCC1=C(C=C(C(=O)O)C=C1)C(=O)O | C37H26F3NO5
